US07262185B2
To a solution of 2-methyl-4-nitrothiophenol (7.0 g) in acetic acid (100 ml) was added reduced iron (21.0 g) and the mixture was stirred for 40 hours. Ethanol was added to the mixture, and the insolubles were filtered off, and the solvent was distilled off under reduced pressure. To the obtained residue was added water, and the solution was neutralized with an aqueous solution of saturated sodium bicarbonate, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and the solvent was distilled off under reduced pressure. The obtained residue was separated and purified by silica gel column chromatography (hexane-ethyl acetate=3:1→hexane:ethyl acetate=0.2:1), to give 4-amino-2-methylthiophenol (1.8 g).

reactant | 2-methyl-4-nitrothiophenol | 7.0 g | CC1=C(C=CC(=C1)[N+](=O)[O-])S | C7H7NO2S
reactant | Ethanol | C(C)O | C2H6O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-amino-2-methylthiophenol | 1.8 g | NC1=CC(=C(C=C1)S)C | C7H9NS
